US07157455B2
Hydroxy-azetidine-1-carboxylic acid tert-butyl ester
1-(Diphenylmethyl)-3-hydroxyazetidine (300 mg, 1.26 mmol, Oakwood,) was dissolved in ethyl acetate (10 mL). To it 10% palladium on carbon (100 mg) and di-tert-butyl dicarbonate (329 mg, 1.51 mmol, Aldrich) were added and the mixture was hydrogenated at 50 psi overnight. Filtration and removal of solvent gave the desired product. 218 mg, 100%. MS (ES) MH+=174.

reactant | 1-(Diphenylmethyl)-3-hydroxyazetidine | 1.26 mmol, 300 mg | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | di-tert-butyl dicarbonate | 1.51 mmol, 329 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | Hydroxy-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC1)O | C8H15NO3
